US04151355
154.5 g (1.5 moles) of sulfur dichloride were initially introduced into a stirred flask and 100 g (1.0 mole) of pinacolone were added dropwise in the course of 2 hours at 20°-40° C., whilst stirring and cooling slightly, HCl being released via the reflux condenser. After the reaction mixture had been stirred for a further hour at 40° C., it was added dropwise in the course of 30-60 minutes at 60°-80° C., whilst cooling, to 220 ml of a 40.5% strength solution of 2 moles of dimethylamine in water. A solution of 140 g (3.5 moles) of NaCH in 300 ml of water was then added and the mixture was heated under reflux for 4-6 hours, dimethylamine being released as a gas via the reflux condenser and being absorbed in water. After cooling to 60°-70° C., the pH of the mixture was adjusted to 3.0 with hydrochloric acid, whilst continuing to cool (hydrogen sulfide being released as a gas and being absorbed in sodium hydroxide solution) and elementary sulfur, which had precipitated at the same time, was filtered off. 106 g (1.0 mole) of thiocarbohydrazide were added to the clear filtrate and the mixture was reacted at pH 1 and 50°-80° C. to give 6-tert.-butyl-3-mercapto-4-amino-1,2,4-triazin-5-(4H)-one. This was very sparingly soluble in the reaction mixture and could be isolated easily by filtering off.

reactant | sulfur dichloride | 1.5 moles, 154.5 g | S(Cl)Cl | Cl2S
reactant | pinacolone | 1.0 mole, 100 g | CC(C(C)(C)C)=O | C6H12O
reactant | HCl | Cl | ClH
reactant | dimethylamine | 2 moles | CNC | C2H7N
reactant | thiocarbohydrazide | 1.0 mole, 106 g | NNC(=S)NN | CH6N4S
reactant | water | O | H2O
reactant | water | 300 ml | O | H2O
product | 6-tert.-butyl-3-mercapto-4-amino-1,2,4-triazin-5-(4H)-one | C(C)(C)(C)C=1C(N(C(=NN1)S)N)=O | C7H12N4OS
